US08580957B2
To a solution of (2S,4R)-1-acetyl-6-[1-(2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}ethyl)-1H-1,2,3-triazol-4-yl]-2-methyl-1,2,3,4-tetrahydro-4-quinolinamine (for a preparation see intermediate 44) (48 mg, 0.112 mmol) and 2-bromo-5-methylpyridine (57.7 mg, 0.335 mmol) in toluene (2.5 mL) were successively added sodium tert-butoxide (107 mg, 1.117 mmol), tris(dibenzylideneacetone)dipalladium(0) (20.46 mg, 0.022 mmol) and 2′-(dicyclohexylphosphino)-N,N-dimethylbiphenyl-2-amine (DavePhos) (17.59 mg, 0.045 mmol). The reaction mixture was stirred at 75° C. for 5 h then cooled to room temperature, and filtered through Celite. The insoluble material was washed with 5% MeOH in DCM. The combined filtrate and washings were concentrated in vacuo. Purification of the residue on SP4 using a 10 G silica cartridge (gradient:10 to 80% AcOEt in Hexanes) gave (2S,4R)-1-acetyl-6-[1-(2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}ethyl)-1H-1,2,3-triazol-4-yl]-2-methyl-N-(5-methyl-2-pyridinyl)-1,2,3,4-tetrahydro-4-quinolinamine (34 mg, 0.065 mmol, 58%) as a colourless oil.

reactant | (2S,4R)-1-acetyl-6-[1-(2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}ethyl)-1H-1,2,3-triazol-4-yl]-2-methyl-1,2,3,4-tetrahydro-4-quinolinamine | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C=1N=NN(C1)CCO[Si](C)(C)C(C)(C)C)N)C | C22H35N5O2Si
reactant | 2-bromo-5-methylpyridine | 0.335 mmol, 57.7 mg | BrC1=NC=C(C=C1)C | C6H6BrN
reactant | sodium tert-butoxide | 1.117 mmol, 107 mg | CC(C)([O-])C.[Na+]
reactant | 2′-(dicyclohexylphosphino)-N,N-dimethylbiphenyl-2-amine | 0.045 mmol, 17.59 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C=1C(=CC=CC1)N(C)C)C1CCCCC1 | C26H36NP
solvent | toluene | 2.5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.022 mmol, 20.46 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (2S,4R)-1-acetyl-6-[1-(2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}ethyl)-1H-1,2,3-triazol-4-yl]-2-methyl-N-(5-methyl-2-pyridinyl)-1,2,3,4-tetrahydro-4-quinolinamine | 0.065 mmol, 34 mg, 58% | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C=1N=NN(C1)CCO[Si](C)(C)C(C)(C)C)NC1=NC=C(C=C1)C)C | C28H40N6O2Si
